US07618964B2
a) {2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-phenoxy]-ethyl}-diethyl-amine
3.31 g 5-bromo-2,3-diaminopyridine and 3.90 g 4-(2-diethylaminoethoxy)-benzaldehyde in 120 ml nitrobenzene were heated to 140-150° C. for 24 hrs. The solvent was removed by vacuum distillation. The residue was dispersed in ethyl acetate and the crude product was isolated by filtration and washed thoroughly with more ethyl acetate. Yield 1.45 g

reactant | 5-bromo-2,3-diaminopyridine | 3.31 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 4-(2-diethylaminoethoxy)-benzaldehyde | 3.90 g | C(C)N(CCOC1=CC=C(C=O)C=C1)CC | C13H19NO2
solvent | nitrobenzene | 120 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | {2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-phenoxy]-ethyl}-diethyl-amine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCCN(CC)CC)C=C2 | C18H21BrN4O
